US05789460
10 mL toluene, 3.1 g 2-nitrobenzyl alcohol, and 2.5 g cyclohexylisocyanate were introduced into a 100-mL three-neck flask and heated under reflux for 1 hour under nitrogen. After cooling, an additional 0.5 g cyclohexylisocyanate was added and the reaction was stirred for 1 hour at ambient temperature. The reaction solution was then washed several times with water and the resulting toluene solution was dried over sodium sulfate. The sodium sulfate was thereafter filtered off and the solvent was eliminated from the filtrate on a rotary evaporator. The resulting solid was recrystallized from toluene to yield ortho-nitrobenzyl cyclohexylcarbamate as light-yellow, needle-like crystals. mp=101°-102° C. Identification by the proton NMR spectrum.

reactant | 2-nitrobenzyl alcohol | 3.1 g | [N+](=O)([O-])C1=C(CO)C=CC=C1 | C7H7NO3
reactant | cyclohexylisocyanate | 2.5 g | C1(CCCCC1)N=C=O | C7H11NO
reactant | cyclohexylisocyanate | 0.5 g | C1(CCCCC1)N=C=O | C7H11NO
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | ortho-nitrobenzyl cyclohexylcarbamate | C1(CCCCC1)NC(OCC1=C(C=CC=C1)[N+](=O)[O-])=O | C14H18N2O4
